US06900202B2
A mixture of 228 mg (2 mmol) of 2-amino-4-methylthiazoline and 1.03 g (5 mmol) of 5-bromomethyl-2-chloropyridine in 30 ml of acetonitrile was heated for 8 hours at 90° C. under refluxing. Then, the reaction mixture was cooled to the room temperature, and the solvent was removed under reduced pressure. The resulting residue was mixed with dichloromethane and saturated sodium hydrogen carbonate aqueous solution, and the organic layer was separated. The water layer was extracted with dichloromethane, and combined organic layer was dried over magnesium sulfate. The solvent was removed under reduced pressure and the resulting residue was purified by silica gel 60 (Merck Co., Ltd.) column chromatography (eluent; dichloromethane:ethyl acetate=from 9:1 to 4:1) to give 600 mg (yield; 82.1%) of crude product as yellow oil. Then, this crude product was purified again by aminopropyl-coated silica gel (Chromatorex NH-type; Fuji Silysia Chemical Ltd.) column chromatography (eluent; dichloromethane), and the eluted product was crystallized by treatment with ether-isopropyl ether to give 310 mg (yield; 42.4%) of 3-(6-chloro-3-pyridyl)methyl-2-[(6-chloro-3-pyridyl)methyl]imino-4-methyl-2,3-dihydrothiazole as milky white crystalline. 200 mg (0.548 mmol) of this product was dissolved in methanol and to this solution was added 64 mg (0.551 mmol) of fumaric acid, and the mixture was concentrated under reduced pressure. The resulting residue was treated with acetonitrile to give crystalline. The crystalline was collected by filtration and dried in vacuum to give 213 mg of fumarate of the title Compound 9.

reactant | 2-amino-4-methylthiazoline | 2 mmol, 228 mg | NC=1SCC(N1)C | C4H8N2S
reactant | 5-bromomethyl-2-chloropyridine | 5 mmol, 1.03 g | BrCC=1C=CC(=NC1)Cl | C6H5BrClN
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 3-(6-chloro-3-pyridyl)methyl-2-[(6-chloro-3-pyridyl)methyl]imino-4-methyl-2,3-dihydrothiazole | 310 mg, yield; 42.4% | ClC1=CC=C(C=N1)CN1C(SC=C1C)=NCC=1C=NC(=CC1)Cl | C16H14Cl2N4S
